US05597832
1d. trans-1,2,3,4-tetrahydro-6,7-dimethoxy-1-(5-methyl-2-thiophenyl)-2-naphthaleneamine
To a suspension of 1.52 g of trans-1,2,3,4-tetrahydro-6,7-dimethoxy-1-(5-methyl-2-thiophenyl)-2-nitro-naphthalene (4.5 mmol), from step 1c above, in 40 mL of 95% ethanol and 12 mL of 6 N HCl was added 2.97 g of Zn dust (45 mmol), added in four portions. The mixture was stirred at room temperature for 30 min, filtered, and the flitrate concentrated to half the original volume, then extracted with methylene chloride after addition of aqueous sodium bicarbonate solution. The organic extract was dried over Na2SO4 and concentrated to yield 1.35 g of the title product. MS (M+H)+ : 304. NMR (CDCl3) δ:6.70 (d, 1H, J=3 Hz), 6.60 (bs, 2H), 6.46 (s, 1H), 3.88 (d, 1H, J=8 Hz), 3.85 (s, 3H), 3.69 (s, 3H), 3.18 (m, 1H), 2.92-2.78 (m, 2H), 2.43 (s, 3H), 2.12-2.04 (m, 1H), 1.78-1.64 (m, 1H).

reactant | trans-1,2,3,4-tetrahydro-6,7-dimethoxy-1-(5-methyl-2-thiophenyl)-2-nitro-naphthalene | 4.5 mmol, 1.52 g | COC=1C=C2CC[C@H]([C@@H](C2=CC1OC)C=1SC(=CC1)C)[N+](=O)[O-] | C17H19NO4S
reactant | HCl | 6 N, 12 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Zn | 45 mmol, 2.97 g | [Zn] | Zn
product | trans-1,2,3,4-tetrahydro-6,7-dimethoxy-1-(5-methyl-2-thiophenyl)-2-naphthaleneamine | 1.35 g | COC=1C=C2CC[C@H]([C@@H](C2=CC1OC)C=1SC(=CC1)C)N | C17H21NO2S
